US09284272B2
1-(4,5-Dimethoxy-2-nitrophenyl)cyclohexanecarbonitrile (0.251 g, 0.865 mmol), prepared in Step 2, in AcOH (6 mL) was treated with 10% Pd/C, fitted with hydrogen balloon and heated to 70° C. for 3 hours under hydrogen atmosphere. The catalyst was filtered off and washed with EtOH. The solvent was concentrated. Purification by reverse phase HPLC afforded 17 mg (8%) of 5′,6′-dimethoxyspiro[cyclohexane-1,3′-indol]-2′-amine 1H NMR (400 MHz, DMSO) δ 7.11 (s, 1H), 6.64 (s, 1H), 3.72 (s, 3H), 3.70 (s, 3H), 1.88-1.84 (m 4H), 1.82-1.66 (m, 4H), 1.22 (d, J=10.2 Hz, 2H). MS (ESI) m/z 261 (M+H)+.

reactant | 1-(4,5-Dimethoxy-2-nitrophenyl)cyclohexanecarbonitrile | 0.865 mmol, 0.251 g | COC1=CC(=C(C=C1OC)C1(CCCCC1)C#N)[N+](=O)[O-] | C15H18N2O4
reactant | hydrogen | [H][H] | H2
solvent | AcOH | 6 mL | CC(=O)O | C2H4O2
catalyst | Pd/C | [Pd] | Pd
product | 5′,6′-dimethoxyspiro[cyclohexane-1,3′-indol]-2′-amine | 17 mg, 8% | COC=1C=C2C3(C(=NC2=CC1OC)N)CCCCC3 | C15H20N2O2
